US05153353
a) 4-[4-{4'-[1,1-dimethyl-2-(tetrahydropyran-2-yl)oxyethyl]phenyl}-2-hydroxybutoxy-benzoic acid methyl ester
30.4 g (0.100 Mol) 4-{4'-[1,1-dimethyl-2-(tetrahydropyran-2-yl)oxyethyl]phenyl}-1,2-epoxy butane, 15.2 g (0.100 Mol) 4-hydroxybenzoic acid methyl ester and 1.74 g (0.010 Mol) 4-hydroxy benzoic acid methyl ester sodium salt are heated in 100 ml dimethyl formamide for 23 hours while stirring to 100°-110° C. The cooled reaction mixture is poured into water, the precipitating product taken up in ethyl acetate and the organic phase washed with water. After drying over sodium sulfate the solvent is removed in vacuum and the residue chromatographed on silica with dichloromethane/methanol 99/1. A highly viscous oil is obtained; yield 32.5 g (71%).

reactant | 4-{4'-[1,1-dimethyl-2-(tetrahydropyran-2-yl)oxyethyl]phenyl}-1,2-epoxy butane | 0.100 Mol, 30.4 g | CC(COC1OCCCC1)(C)C1=CC=C(C=C1)CCC1CO1 | C19H28O3
reactant | 4-hydroxybenzoic acid methyl ester | 0.100 Mol, 15.2 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 4-hydroxy benzoic acid methyl ester sodium salt | 0.010 Mol, 1.74 g | [Na].COC(C1=CC=C(C=C1)O)=O
reactant | water | O | H2O
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{4'-[1,1-dimethyl-2-(tetrahydropyran-2-yl)oxyethyl]phenyl}-2-hydroxybutoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C1=CC=C(C=C1)C(COC1OCCCC1)(C)C)OCC(CC)O)=O | C27H36O6
